2141-02-07 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2141-2-6**] 08:01 PM
 PICC LINE - START [**2141-2-6**] 08:15 PM
 ARTERIAL LINE - START [**2141-2-6**] 09:30 PM
 BLOOD CULTURED - At [**2141-2-7**] 01:00 AM
   - Changed to PSV for goal pCO2 70-80.
   - CT Chest to be ordered for AM, followed by likely extubation
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2141-2-7**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-2-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-7**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.2
   HR: 81 (60 - 114) bpm
   BP: 142/53(85) {117/44(71) - 164/57(212)} mmHg
   RR: 14 (14 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    551 mL
                                                                    189 mL
   PO:
             TF:
   IVF:
                                                                    551 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                    330 mL
                                                                    910 mL
   Urine:
                                                                    330 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    221 mL
                                                                   -721 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 325 (325 - 500) mL
   Vt (Spontaneous): 515 (515 - 515) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 98%
   ABG: 7.50/42/103/34/8
   Ve: 4.2 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General: Intubated and sedated
   HEENT: Sclera anicteric, MMM, oropharynx clear, ETT in place, Pupils
   pinpoint
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: increased tone of arms and legs, lip tremors noted
   Labs / Radiology
   188 K/uL
   9.3 g/dL
   86 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.9 mEq/L
   26 mg/dL
   108 mEq/L
   144 mEq/L
   26.6 %
   3.3 K/uL
        [image002.jpg]
                             [**2141-2-6**]  08:14 PM
                             [**2141-2-6**]  09:59 PM
                             [**2141-2-7**]  02:54 AM
                             [**2141-2-7**]  03:05 AM
   WBC
   2.4
   3.3
   Hct
   33.1
   26.6
   Plt
   223
   188
   Cr
   1.1
   0.9
   TCO2
   34
   34
   Glucose
   113
   86
   Other labs: PT / PTT / INR:12.8/28.4/1.1, ALT / AST:18/23, Alk Phos / T
   Bili:46/0.2, Differential-Neuts:73.1 %, Lymph:19.3 %, Mono:5.9 %,
   Eos:1.2 %, Albumin:3.7 g/dL, LDH:196 IU/L, Ca++:9.1 mg/dL, Mg++:2.0
   mg/dL, PO4:1.7 mg/dL
   Imaging: CT Head: No acute intracranial process.
   CXR: Support tubes as noted above in satisfactory position. There is
   left base atelectasis without definite focal infiltrate or superimposed
   edema.
   Microbiology: GRAM STAIN (Final [**2141-1-29**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         SMEAR REVIEWED; RESULTS CONFIRMED.
      RESPIRATORY CULTURE (Final [**2141-2-1**]):
         OROPHARYNGEAL FLORA ABSENT.
         PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
         ENTEROBACTER CLOACAE.    RARE GROWTH.
   CEFEPIME--------------     8 S      <=1 S
   CEFTAZIDIME-----------     4 S       16 I
   CEFTRIAXONE-----------               16 I
   CIPROFLOXACIN---------   =>4 R      =>4 R
   GENTAMICIN------------     4 S      <=1 S
   MEROPENEM-------------     8 I   <=0.25 S
   PIPERACILLIN----------     8 S       64 I
   PIPERACILLIN/TAZO-----     8 S
   TOBRAMYCIN------------   <=1 S      <=1 S
   TRIMETHOPRIM/SULFA----              <=1 S
   Assessment and Plan
   This is a 77 M w/ pmh of recently diagnosed parkinsons w/ 2 recent
   episodes of intubation for hypercarbic respiratory failure now presents
   with the same.
   .
   # Respiratory failure: Based on CXR of hyperinflation, hyperlucency
   anterior to heart on heart, may have underlying COPD although no PFTs.
   Known to have developed parkinsons disease which also likely is causing
   neuromuscular weakness.  NIFs prior to extubation in prior MICU stay
   were -11, -20 and -23.  There is some suggestion of fibrotic change in
   pleura which could be causing some degree of restriction.  Now s/p
   intubation for ventilation.  CXR w/o obvious infiltrate although he is
   still being treated for a pseudomonas/enterococcus bronchitis w/
   cefepime (D1 =[**2-1**]).
   - continue cefepime (D1= [**2-1**])
   - repeat sputum cx
   - blood cx
   - albuterol/ipratropium MDI
   .
   # Altered mental status: Likley secondary to hypercarbia.  CT head w/o
   acute event.
   - continue to monitor
   .
   # Anemia: stable, macrocytic.
   - check B12, folate
   - guaiac stools
   .
   # Leukopenia: unclear [**Name2 (NI) 5005**].  Had been noted prior to transfer from
   OSH.  He had a relative leukocytosis on initial presentation.
   - trend for now
   .
   # Weakness/Dementia: Per d/c summary, Mr. [**Known lastname 4782**] was recently
   diagnosed 3-4 months ago with Parkinson's Disease. Neurology evaluation
   here showed dementia and right foot drop but no clear Parkinsons. He
   was felt to likely have what have arteriosclerotic disease which is
   chronic small vessel changes  in the brain with white matter
   abnormalities and lacunes.
   - outpatient MRI/MRA
   - Dipyridamole-Aspirin
   .
   # Weight loss: by report, had lost 30 pounds X 3-4 months w/ unclear
   cause.
   - albumin
   - appropriate outpatient cancer screening
   - HIV as outpatient
   .
   # Dysphagia: did aspirate on video swallow.
   .
   # HTN: BP have been lower post- intubation.  Will hold lisinopril,
   amlodipine and metoprolol for now and re-start as needed.
   .
   # BPH: hold terazosin as above.
   .
   # FEN: IVF prn, replete electrolytes, will start TF
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals, R art line, R PICC
   .
   # Code: presumed full
   .
   # Communication: HCP girlfriend x 25 [**Name2 (NI) 5006**] [**First Name8 (NamePattern2) 4786**] [**Last Name (NamePattern1) 4788**] [**Telephone/Fax (1) 4789**]
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-6**] 08:15 PM
   20 Gauge - [**2141-2-6**] 08:15 PM
   Arterial Line - [**2141-2-6**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-02-08 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Neuro recommended MRI to rule out brain stem lesion which could have
   caused central apnea, EEG and did not see necessity for AED to be
   placed
   - CT showed tiny nodules BL lung fields, trace pleural effusions,
   pancreatic hypodensity, chololithiasis, diverticulosis, renal cysts.
   - Consider Echo this AM
 MAGNETIC RESONANCE IMAGING - At [**2141-2-7**] 09:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2141-2-8**] 12:00 AM
   Vancomycin - [**2141-2-8**] 12:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-2-7**] 07:35 AM
   Heparin Sodium (Prophylaxis) - [**2141-2-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-8**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 68 (60 - 103) bpm
   BP: 132/35(67) {115/31(60) - 164/59(95)} mmHg
   RR: 15 (10 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,074 mL
                                                                    432 mL
   PO:
                                                                    750 mL
             TF:
   IVF:
                                                                  1,304 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                    520 mL
   Urine:
                                                                  2,180 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -106 mL
                                                                    -89 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (325 - 500) mL
   Vt (Spontaneous): 408 (162 - 451) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 27 cmH2O
   SpO2: 99%
   ABG: 7.38/56/113/34/5
   NIF: -12 cmH2O
   Ve: 5.8 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General: Intubated and awake, following commands
   HEENT: Sclera anicteric, MMM, oropharynx clear, ETT in place, Pupils
   reactive
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: increased tone of arms and legs, lip tremors noted
   Labs / Radiology
   196 K/uL
   9.1 g/dL
   84 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.0 mEq/L
   21 mg/dL
   103 mEq/L
   140 mEq/L
   26.7 %
   3.4 K/uL
        [image002.jpg]
                             [**2141-2-6**]  08:14 PM
                             [**2141-2-6**]  09:59 PM
                             [**2141-2-7**]  02:54 AM
                             [**2141-2-7**]  03:05 AM
                             [**2141-2-7**]  08:49 AM
                             [**2141-2-7**]  03:12 PM
                             [**2141-2-7**]  04:43 PM
                             [**2141-2-8**]  03:01 AM
                             [**2141-2-8**]  06:18 AM
   WBC
   2.4
   3.3
   3.4
   3.4
   Hct
   33.1
   26.6
   29.2
   26.7
   Plt
   223
   188
   197
   196
   Cr
   1.1
   0.9
   0.8
   TCO2
   34
   34
   33
   32
   34
   Glucose
   113
   86
   84
   Other labs: PT / PTT / INR:12.8/28.4/1.1, ALT / AST:18/23, Alk Phos / T
   Bili:46/0.2, Differential-Neuts:63.1 %, Lymph:27.5 %, Mono:7.3 %,
   Eos:1.5 %, Albumin:3.7 g/dL, LDH:196 IU/L, Ca++:8.9 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   This is a 77 M w/ neuromuscular disorder likely vascular dementia with
   2 recent episodes of intubation for hypercarbic respiratory failure now
   presents with the same.
   # Respiratory failure: Etiology still unclear.  [**Name2 (NI) **] retains CO2 at
   baseline without clear obstructive physiology based on ventilator
   monitoring (no PFTs).  [**Month (only) 51**] have underlying bronciectasis vs.
   pneumonia.  Possible neuromuscular component.  Also recent
   pseudomonas/enterococcus bronchitis treated w/ cefepime (D1 =[**2-1**]).
   - continue cefepime (D1= [**2-1**]) for a 10 day course
   - repeat sputum cx
   - blood cx
   - albuterol/ipratropium MDI
   - Maintain on PSV, wean as tolerated
   - Broncoscopy to eval further the atelectasis and nodules
   # Altered mental status: Likley secondary to hypercarbia.  CT head w/o
   acute event.  Etiology still unknown, no obvious repeat events
   -          Neuro consult-recommended MR-pending
   -          Will further eval with carotid duplex and ECHO to
   investigate other causes for syncope
   # Anemia: stable, macrocytic.
   - check B12, folate
   - guaiac stools
   - Torso CT to examine for bleed
   - Reticulocyte count, peripheral smear-Retic count low, and iron panel
   suggestive of AOCD.  Smear less impressive.  Will eval for MM given
   recent weight loss with SPEP/UPEP
   # Leukopenia: unclear [**Name2 (NI) 5005**].  Had been noted prior to transfer from
   OSH.  He had a relative leukocytosis on initial presentation.
   -          Possible Cefepime effect
   -          Contact PCP for further records
   # Weakness/Dementia: Per d/c summary, Mr. [**Known lastname 4782**] was recently
   diagnosed 3-4 months ago with Parkinson's Disease. Neurology evaluation
   here showed dementia and right foot drop but no clear Parkinsons. He
   was felt to likely have what have arteriosclerotic disease which is
   chronic small vessel changes  in the brain with white matter
   abnormalities and lacunes.
   - scheduled for MRI/MRA
   - Dipyridamole-Aspirin
   # Weight loss: by report, had lost 30 pounds X 3-4 months w/ unclear
   cause.
   - albumin
   - appropriate outpatient cancer screening
   - HIV when patient able to consent
   - Contact PCP
   # Dysphagia: did aspirate on video swallow.
   # HTN: BP have been lower post- intubation.  Will hold lisinopril,
   amlodipine and metoprolol for now and re-start as needed.
   # BPH: hold terazosin as above.
   # FEN: IVF prn, replete electrolytes, will start TF if not extubated
   today
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, R art line, R PICC
   # Code: presumed full
   # Communication: HCP girlfriend x 25 [**Name2 (NI) 5006**] [**First Name8 (NamePattern2) 4786**] [**Last Name (NamePattern1) 4788**] [**Telephone/Fax (1) 4789**]
   # Disposition: ICU for now
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-6**] 08:15 PM
   20 Gauge - [**2141-2-6**] 08:15 PM
   Arterial Line - [**2141-2-6**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-02-09 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2141-2-8**] 12:57 PM
 INVASIVE VENTILATION - STOP [**2141-2-8**] 01:15 PM
 INVASIVE VENTILATION - START [**2141-2-8**] 09:30 PM
   -Hypertensive during the afternoon, suspect was from work of breathing
   and was not treated, did well post intubation initially
   -Acute decompensation with respiratory distress requiring reintubation.
   -Hypertensive to 180s while intbuated, trended down, but was also
   bradycardic to 50s.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2141-2-9**] 12:32 AM
   Vancomycin - [**2141-2-9**] 01:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-9**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 60 (55 - 106) bpm
   BP: 146/49(81) {11/35(65) - 195/69(117)} mmHg
   RR: 14 (0 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    993 mL
                                                                    390 mL
   PO:
             TF:
   IVF:
                                                                    913 mL
                                                                    390 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                    585 mL
   Urine:
                                                                  2,260 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,267 mL
                                                                   -195 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 361 (361 - 410) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Neuromusc Block
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.48/44/75/30/8
   NIF: -13 cmH2O
   Ve: 7.5 L/min
   PaO2 / FiO2: 125
   Physical Examination
   General: Intubated and sedated, not following commands, but with
   spontaneous movements
   HEENT: Sclera anicteric, MMM, oropharynx clear, ETT in place, Pupils
   pinpoint but reactive
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: S1 + S2 regular without murmur
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: increased tone of arms and legs, lip tremors noted
   Labs / Radiology
   198 K/uL
   9.5 g/dL
   70 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.6 mEq/L
   20 mg/dL
   102 mEq/L
   140 mEq/L
   26.8 %
   4.2 K/uL
        [image002.jpg]
                             [**2141-2-7**]  08:49 AM
                             [**2141-2-7**]  03:12 PM
                             [**2141-2-7**]  04:43 PM
                             [**2141-2-8**]  03:01 AM
                             [**2141-2-8**]  06:18 AM
                             [**2141-2-8**]  09:19 PM
                             [**2141-2-8**]  10:51 PM
                             [**2141-2-9**]  01:02 AM
                             [**2141-2-9**]  03:13 AM
                             [**2141-2-9**]  03:36 AM
   WBC
   3.4
   3.4
   4.2
   Hct
   29.2
   26.7
   26.8
   Plt
   197
   196
   198
   Cr
   0.8
   0.8
   TCO2
   33
   32
   34
   35
   34
   31
   34
   Glucose
   84
   82
   70
   Other labs: PT / PTT / INR:12.8/28.4/1.1, ALT / AST:18/23, Alk Phos / T
   Bili:46/0.2, Differential-Neuts:63.1 %, Lymph:27.5 %, Mono:7.3 %,
   Eos:1.5 %, Lactic Acid:0.8 mmol/L, Albumin:3.7 g/dL, LDH:196 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR: Increasing L opacity, decreased aeration Bilaterally
   [**2-7**] MRI Head: Wet read: No evidence of acute intracranial process.
   Carotid U/S: IMPRESSION: There is less than 40% stenosis within the
   right internal carotid
   artery. There is 60 to 69% stenosis within the left internal carotid
   artery.
   Echo: Bicuspid aortic valve with minimal aortic stenosis. Normal
   regional and globa biventricular systolic function. Dilated aortic
   root. Biatrial enlargement.
   Microbiology: Sputum [**2140-2-7**]
   GRAM STAIN (Final [**2141-2-7**]):
         [**11-19**] PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
   This is a 77 M w/ neuromuscular disorder likely vascular dementia with
   2 recent episodes of intubation for requiring reintubation overnight
   after extubation for a similar episode.
   # Respiratory failure: Etiology still unclear.  [**Name2 (NI) **] retains CO2 at
   baseline without clear obstructive physiology based on ventilator
   monitoring (no PFTs).  [**Month (only) 51**] have underlying bronciectasis vs.
   pneumonia.  Possible neuromuscular component.  Also recent
   pseudomonas/enterococcus bronchitis treated w/ cefepime (D1 =[**2-1**]).
   - continue cefepime (D1= [**2-1**]) for a 10 day course to [**2-10**]
   - albuterol/ipratropium MDI
   - Wean to CPAP
   - Cannot extubate until underlying diagnoses made
   - Consult Neuromuscular Fellow
   # Weakness/Dementia: Per d/c summary, Mr. [**Known lastname 4782**] was recently
   diagnosed 3-4 months ago with Parkinson's Disease. Neurology evaluation
   here showed dementia and right foot drop but no clear Parkinsons.
   MRI/MRA wet read showed now acute process. ECHO & carotid report as
   above do not explain weakness/dementia or altered mental status.
   -          Dipyridamole-Aspirin
   -          Patient awake and tolerating intubation now
   # Anemia: stable, macrocytic.
   - check B12, folate
   - guaiac stools
   - Torso CT to examine for bleed
   - Reticulocyte count, peripheral smear-Retic count low, and iron panel
   suggestive of AOCD.  Smear less impressive.  Will eval for MM given
   recent weight loss with SPEP/UPEP
   # Leukopenia: unclear [**Name2 (NI) 5005**].  Had been noted prior to transfer from
   OSH.  He had a relative leukocytosis on initial presentation.
   -          Possible Cefepime effect
   # Weight loss: by report, had lost 30 pounds X 3-4 months w/ unclear
   cause.
   - albumin
   - appropriate outpatient cancer screening
   - HIV when patient able to consent
   - Contact PCP
   # Dysphagia: did aspirate on video swallow.
   # HTN: BP have been lower post- intubation.  Will hold lisinopril,
   amlodipine and metoprolol for now and re-start as needed.
   # BPH: hold terazosin as above.
   # FEN: IVF prn, replete electrolytes, will start TF
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, R art line, R PICC
   # Code: presumed full
   # Communication: HCP girlfriend x 25 [**Name2 (NI) 5006**] [**First Name8 (NamePattern2) 4786**] [**Last Name (NamePattern1) 4788**] [**Telephone/Fax (1) 4789**]
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-6**] 08:15 PM
   20 Gauge - [**2141-2-6**] 08:15 PM
   Arterial Line - [**2141-2-6**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-02-10 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2141-2-9**]:
   - remains intubated
   - Neuromuscular eval: likely ALS
   - Spine MRI in am
   Pt able to communicate through writing.  Wants to know when the tube
   can come out.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2141-2-9**] 11:34 AM
   Cefipime - [**2141-2-10**] 12:28 AM
   Vancomycin - [**2141-2-10**] 12:29 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-2-9**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-10**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 59 (58 - 95) bpm
   BP: 132/45(72) {101/32(52) - 158/57(93)} mmHg
   RR: 10 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                  2,343 mL
                                                                    564 mL
   PO:
             TF:
                                                                    269 mL
                                                                    141 mL
   IVF:
                                                                  1,954 mL
                                                                    423 mL
   Blood products:
   Total out:
                                                                  1,169 mL
                                                                    270 mL
   Urine:
                                                                  1,169 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,174 mL
                                                                    294 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.37/57/122/33/6
   Ve: 4.4 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General: Intubated, able to write to communicate
   HEENT: Sclera anicteric, MMM, oropharynx clear, ETT in place, Pupils
   pinpoint but reactive
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: S1 + S2 regular without murmur
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: increased tone of arms and legs, lip tremors noted
   Labs / Radiology
   167 K/uL
   9.0 g/dL
   85 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.6 mEq/L
   21 mg/dL
   104 mEq/L
   141 mEq/L
   25.6 %
   3.4 K/uL
        [image002.jpg]
                             [**2141-2-8**]  09:19 PM
                             [**2141-2-8**]  10:51 PM
                             [**2141-2-9**]  01:02 AM
                             [**2141-2-9**]  03:13 AM
                             [**2141-2-9**]  03:36 AM
                             [**2141-2-9**]  09:57 AM
                             [**2141-2-9**]  11:02 AM
                             [**2141-2-9**]  05:40 PM
                             [**2141-2-10**]  04:07 AM
                             [**2141-2-10**]  05:07 AM
   WBC
   4.2
   3.4
   Hct
   26.8
   25.6
   Plt
   198
   167
   Cr
   0.8
   0.9
   TCO2
   35
   34
   31
   34
   33
   35
   34
   34
   Glucose
   82
   70
   85
   Other labs: PT / PTT / INR:14.0/39.9/1.2, ALT / AST:18/23, Alk Phos / T
   Bili:46/0.2, Differential-Neuts:63.1 %, Lymph:27.5 %, Mono:7.3 %,
   Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:196 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   This is a 77 M w/ neuromuscular disorder with 2 recent episodes of
   intubation for requiring reintubation overnight after extubation for a
   similar episode.
   # Respiratory failure:  Likely secondary to neuromuscular disorder.
   Neuromuscular team consuted.  Compounding things the patient has had a
   recent pseudomonas/enterococcus bronchitis treated w/ cefepime (D1
   =[**2-1**]).
   - completed 10 day course of cefepime
   - continue albuterol/ipratropium MDI
   - Wean to CPAP as tolerated, allow to rest overnight on AC
   - Cannot extubate until underlying diagnoses made
   - If the diagnosis of ALS is made, the next step may be tracheostomy
   # Weakness/Dementia: Per d/c summary, Mr. [**Known lastname 4782**] was recently
   diagnosed 3-4 months ago with Parkinson's Disease. Neurology evaluation
   here showed dementia and right foot drop but no clear Parkinsons.
   MRI/MRA wet read showed now acute process. ECHO & carotid report as
   above do not explain weakness/dementia or altered mental status.
   Neuromuscular consult concerned about ALS.  The patient will have spine
   MRI today to rule out other cause of neuromuscular weakness.
   -          Continue Dipyridamole-Aspirin
   # Anemia: stable, macrocytic.
   - guaiac stools
   - Torso CT to examine for bleed
   - Reticulocyte count, peripheral smear-Retic count low, and iron panel
   suggestive of AOCD.  Smear less impressive.  Will eval for MM given
   recent weight loss with SPEP/UPEP
   # Leukopenia: unclear [**Name2 (NI) 5005**].  Had been noted prior to transfer from
   OSH.  He had a relative leukocytosis on initial presentation.
   -          Possible Cefepime effect, continue to trend
   # Weight loss: by report, had lost 30 pounds X 3-4 months w/ unclear
   cause.  [**Month (only) 51**] be secondary to neuromuscular disorder
   - appropriate outpatient cancer screening
   # Dysphagia: did aspirate on video swallow.  Most likely secondary to
   neuromuscular disorder
   # HTN: BP have been lower post- intubation.  Will hold lisinopril,
   amlodipine and metoprolol for now and re-start as needed.
   # BPH: hold terazosin as above.
   # FEN: IVF prn, replete electrolytes, will start TF
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, R art line, R PICC
   # Code: presumed full
   # Communication: HCP girlfriend x 25 [**Name2 (NI) 5006**] [**First Name8 (NamePattern2) 4786**] [**Last Name (NamePattern1) 4788**] [**Telephone/Fax (1) 4789**]
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-6**] 08:15 PM
   20 Gauge - [**2141-2-6**] 08:15 PM
   Arterial Line - [**2141-2-6**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for the key portions of resident
s history and exam.  Agree
   substantially with assessment and plan above.  Appreciate input of
   Neuromuscular Service. He is alert today, communicating by writing.
   Chest exam min crackles L base. Peripheral strength remains good.
   Likely ALS
 will r/o cord lesion with MR of spine
   Respiratory failure secondary to NM Dis
   LLL atelectasis
   Anemia
   Likely ALS. We spoke with him today about his situation and the
   diagnositic possibilities. He is aware that his muscle weakness may not
   be treatable. Discussed decision making re potential trache/ PEG.  He
   is currently able to maintain himself for hours at a time w/o vent
   support and might do so for awhile if he has a trache.  Will discuss
   long term plan with Neurology.  Likely trache and PEG early next week
   followed by discharge to rehab. Not impossible that he could be
   maintained at home for some period with nocturnal ventilation
   Time spent 45 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2141-2-10**] 15:54 ------

2141-02-11 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2141-2-10**]:
   - Spine MRI was scheduled for today, did not get done
   - Able to tolerate MMV PSV during the day, switched to AC overnight
   - Restarted home amlodipine 5mg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2141-2-9**] 11:34 AM
   Cefipime - [**2141-2-11**] 12:26 AM
   Vancomycin - [**2141-2-11**] 12:26 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-2-10**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2141-2-11**] 12:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-11**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 58 (57 - 74) bpm
   BP: 145/47(77) {125/36(64) - 188/68(111)} mmHg
   RR: 13 (10 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                  1,556 mL
                                                                    473 mL
   PO:
             TF:
                                                                    480 mL
                                                                    137 mL
   IVF:
                                                                    955 mL
                                                                    336 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    375 mL
   Urine:
                                                                  1,050 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    506 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 380 (380 - 450) mL
   Vt (Spontaneous): 372 (372 - 470) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.38/57/121/32/7
   Ve: 9.1 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General: Intubated, able to write to communicate
   HEENT: Sclera anicteric, MMM, oropharynx clear, ETT in place, Pupils
   pinpoint but reactive
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: S1 + S2 regular without murmur
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: increased tone of arms and legs, lip tremors noted
   Labs / Radiology
   151 K/uL
   9.0 g/dL
   96 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.7 mEq/L
   18 mg/dL
   102 mEq/L
   139 mEq/L
   25.7 %
   2.9 K/uL
        [image002.jpg]
                             [**2141-2-9**]  01:02 AM
                             [**2141-2-9**]  03:13 AM
                             [**2141-2-9**]  03:36 AM
                             [**2141-2-9**]  09:57 AM
                             [**2141-2-9**]  11:02 AM
                             [**2141-2-9**]  05:40 PM
                             [**2141-2-10**]  04:07 AM
                             [**2141-2-10**]  05:07 AM
                             [**2141-2-10**]  06:20 PM
                             [**2141-2-11**]  04:07 AM
   WBC
   4.2
   3.4
   2.9
   Hct
   26.8
   25.6
   25.7
   Plt
   198
   167
   151
   Cr
   0.8
   0.9
   0.9
   TCO2
   31
   34
   33
   35
   34
   34
   35
   Glucose
   70
   85
   96
   Other labs: PT / PTT / INR:13.2/33.9/1.1, ALT / AST:18/23, Alk Phos / T
   Bili:46/0.2, Differential-Neuts:63.1 %, Lymph:27.5 %, Mono:7.3 %,
   Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:196 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 77 M w/ neuromuscular disorder with 2 recent episodes of
   intubation for requiring reintubation overnight after extubation for a
   similar episode.
   # Respiratory failure:  Likely secondary to neuromuscular disorder.
   Neuromuscular team consuted.  Compounding things the patient has had a
   recent pseudomonas/enterococcus bronchitis treated w/ cefepime (D1
   =[**2-1**]).
   - completed 10 day course of cefepime
   - continue albuterol/ipratropium MDI
   - Wean to CPAP as tolerated, allow to rest overnight on AC
   - Cannot extubate until underlying diagnoses made
   - If the diagnosis of ALS is made, the next step may be tracheostomy
   # Weakness/Dementia: Per d/c summary, Mr. [**Known lastname 4782**] was recently
   diagnosed 3-4 months ago with Parkinson's Disease. Neurology evaluation
   here showed dementia and right foot drop but no clear Parkinsons.
   MRI/MRA wet read showed now acute process. ECHO & carotid report as
   above do not explain weakness/dementia or altered mental status.
   Neuromuscular consult concerned about ALS.  The patient will have spine
   MRI today to rule out other cause of neuromuscular weakness.
   -          Continue Dipyridamole-Aspirin
   # Anemia: stable, macrocytic.
   - guaiac stools
   - Torso CT to examine for bleed
   - Reticulocyte count, peripheral smear-Retic count low, and iron panel
   suggestive of AOCD.  Smear less impressive.  Will eval for MM given
   recent weight loss with SPEP/UPEP
   # Leukopenia: unclear [**Name2 (NI) 5005**].  Had been noted prior to transfer from
   OSH.  He had a relative leukocytosis on initial presentation.
   -          Possible Cefepime effect, continue to trend
   # Weight loss: by report, had lost 30 pounds X 3-4 months w/ unclear
   cause.  [**Month (only) 51**] be secondary to neuromuscular disorder
   - appropriate outpatient cancer screening
   # Dysphagia: did aspirate on video swallow.  Most likely secondary to
   neuromuscular disorder
   # HTN: BP have been lower post- intubation.  Will hold lisinopril,
   amlodipine and metoprolol for now and re-start as needed.
   # BPH: hold terazosin as above.
   # FEN: IVF prn, replete electrolytes, will start TF
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, R art line, R PICC
   # Code: presumed full
   # Communication: HCP girlfriend x 25 [**Name2 (NI) 5006**] [**First Name8 (NamePattern2) 4786**] [**Last Name (NamePattern1) 4788**] [**Telephone/Fax (1) 4789**]
   # Disposition: ICU for now
 .H/O ANEMIA, CHRONIC
 SYNCOPE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2141-2-11**] 12:21 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-6**] 08:15 PM
   20 Gauge - [**2141-2-6**] 08:15 PM
   Arterial Line - [**2141-2-6**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-02-12 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Spine MRI results:Degenerative disc disease as discussed above. No
   evidence of spinal cord or cauda equina compression.
   - D/c vanc/cefepime
   - SW consult
   - PS during day with MMV for minute vent <4L overnight
 MAGNETIC RESONANCE IMAGING - At [**2141-2-11**] 10:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2141-2-9**] 11:34 AM
   Vancomycin - [**2141-2-11**] 12:26 AM
   Cefipime - [**2141-2-11**] 12:26 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-2-12**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-12**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.7
   HR: 61 (59 - 89) bpm
   BP: 129/38(66) {121/35(62) - 168/55(92)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,648 mL
                                                                    276 mL
   PO:
             TF:
                                                                    698 mL
                                                                    259 mL
   IVF:
                                                                    670 mL
                                                                     16 mL
   Blood products:
   Total out:
                                                                  1,362 mL
                                                                    330 mL
   Urine:
                                                                  1,362 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    286 mL
                                                                    -54 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 405 (342 - 455) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 5.7 L/min
   Physical Examination
   General: Intubated, able to write to communicate, not sedated
   HEENT: Sclera anicteric, MMM, oropharynx clear, ETT in place, Pupils
   reactive
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: S1 + S2 regular without murmur
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: increased tone of arms and legs, lip tremors noted
   Labs / Radiology
   150 K/uL
   9.1 g/dL
   92 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.0 mEq/L
   17 mg/dL
   103 mEq/L
   139 mEq/L
   25.6 %
   4.3 K/uL
        [image002.jpg]
                             [**2141-2-9**]  03:13 AM
                             [**2141-2-9**]  03:36 AM
                             [**2141-2-9**]  09:57 AM
                             [**2141-2-9**]  11:02 AM
                             [**2141-2-9**]  05:40 PM
                             [**2141-2-10**]  04:07 AM
                             [**2141-2-10**]  05:07 AM
                             [**2141-2-10**]  06:20 PM
                             [**2141-2-11**]  04:07 AM
                             [**2141-2-12**]  03:05 AM
   WBC
   4.2
   3.4
   2.9
   4.3
   Hct
   26.8
   25.6
   25.7
   25.6
   Plt
   198
   167
   151
   150
   Cr
   0.8
   0.9
   0.9
   0.8
   TCO2
   34
   33
   35
   34
   34
   35
   Glucose
   70
   85
   96
   92
   Other labs: PT / PTT / INR:13.2/33.9/1.1, ALT / AST:18/23, Alk Phos / T
   Bili:46/0.2, Differential-Neuts:63.1 %, Lymph:27.5 %, Mono:7.3 %,
   Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:196 IU/L,
   Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   This is a 77 M w/ neuromuscular disorder with 2 recent episodes of
   intubation for requiring reintubation after extubation for a similar
   episode.
   # Respiratory failure:  Likely secondary to neuromuscular disorder,
   most likely diagnosis ALS.  Neuromuscular team following.  Compounding
   things the patient has had a recent pseudomonas/enterobacter bronchitis
   treated w/ cefepime and vancomycin for 10 days.
   - Discontinued antibiotics yesterday
   - continue albuterol/ipratropium MDI
   - Continue on PSV and wean PEEP/PSV as tolerated, rest on MMV overnight
   - Will confirm ALS diagnosis with Neuro and determine if any other
   further studies are indicated.   Will discuss trach/PEG with IP.
   - Check ABG and correlate to VBG
   -
   # Weakness/Dementia: Per d/c summary, Mr. [**Known lastname 4782**] was recently
   diagnosed 3-4 months ago with Parkinson's Disease. Neurology evaluation
   here showed dementia and right foot drop but no clear Parkinsons.
   MRI/MRA wet read showed now acute process. ECHO & carotid report as
   above do not explain weakness/dementia or altered mental status.
   Neuromuscular consult concerned about ALS.
   -  Spine MRI negative for cord compression or cauda equine as cause for
   weakness
   - Continue Dipyridamole-Aspirin
   # Pancytopenia:  Unclear etiology, could be secondary to bone marrow
   suppression from chronic illness.
   - Continue to trend
   # Weight loss: by report, had lost 30 pounds X 3-4 months w/ unclear
   cause.  [**Month (only) 51**] be secondary to neuromuscular disorder
   - appropriate outpatient cancer screening completed
   - Continue Tube feeds
   # Dysphagia: did aspirate on video swallow.  Most likely secondary to
   neuromuscular disorder
   - Eval for G tube
   # HTN: BP have been lower post- intubation.  Will restart amlodipine
   today, may have to restart lisinopril and metoprolol given the
   patient
s blood pressures have been elevated.
   # BPH: hold terazosin as above.
   # FEN: IVF prn, replete electrolytes, will start TF
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, R art line, R PICC-currently clotted will
   attempt TPA to unclot for labs, etc
   # Code: Full Code
   # Communication: HCP girlfriend x 25 [**Name2 (NI) 5006**] [**First Name8 (NamePattern2) 4786**] [**Last Name (NamePattern1) 4788**] [**Telephone/Fax (1) 4789**]
   # Disposition: ICU for now
 .H/O ANEMIA, CHRONIC
 SYNCOPE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2141-2-11**] 09:43 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-6**] 08:15 PM
   20 Gauge - [**2141-2-6**] 08:15 PM
   Arterial Line - [**2141-2-6**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-02-13 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2141-2-12**]:
   - Trach/Peg discussed, finalize in AM with family
   - IP aware of patient, call with INR when decided to go ahead
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2141-2-11**] 12:26 AM
   Vancomycin - [**2141-2-11**] 12:26 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-2-12**] 08:37 AM
   Heparin Sodium (Prophylaxis) - [**2141-2-12**] 08:38 AM
   Fentanyl - [**2141-2-13**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-13**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 66 (59 - 86) bpm
   BP: 141/43(77) {99/36(54) - 159/53(86)} mmHg
   RR: 16 (12 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  1,072 mL
                                                                    328 mL
   PO:
                  TF:
                                                                    962 mL
                                                                    278 mL
   IVF:
                                                                     35 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    440 mL
   Urine:
                                                                  1,235 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -163 mL
                                                                   -112 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 382 (264 - 439) mL
   PS : 10 cmH2O
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: 7.38/63/102/36/8
   NIF: -13 cmH2O
   Ve: 4.4 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General: Intubated, able to write to communicate, not sedated
   HEENT: Sclera anicteric, MMM, oropharynx clear, ETT in place, Pupils
   reactive
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: S1 + S2 regular without murmur
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: increased tone of arms and legs, lip tremors noted
   Labs / Radiology
   158 K/uL
   9.5 g/dL
   107 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.9 mEq/L
   18 mg/dL
   100 mEq/L
   139 mEq/L
   27.5 %
   3.3 K/uL
        [image002.jpg]
                             [**2141-2-9**]  11:02 AM
                             [**2141-2-9**]  05:40 PM
                             [**2141-2-10**]  04:07 AM
                             [**2141-2-10**]  05:07 AM
                             [**2141-2-10**]  06:20 PM
                             [**2141-2-11**]  04:07 AM
                             [**2141-2-12**]  03:05 AM
                             [**2141-2-12**]  11:11 AM
                             [**2141-2-13**]  02:59 AM
                             [**2141-2-13**]  03:23 AM
   WBC
   3.4
   2.9
   4.3
   3.3
   Hct
   25.6
   25.7
   25.6
   27.5
   Plt
   167
   151
   150
   158
   Cr
   0.9
   0.9
   0.8
   0.8
   TCO2
   35
   34
   34
   35
   37
   39
   Glucose
   85
   96
   92
   107
   Other labs: PT / PTT / INR:13.1/33.0/1.1, ALT / AST:18/23, Alk Phos / T
   Bili:46/0.2, Differential-Neuts:63.1 %, Lymph:27.5 %, Mono:7.3 %,
   Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:196 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   This is a 77 M w/ neuromuscular disorder with 2 recent episodes of
   intubation for requiring reintubation after extubation for a similar
   episode.
   # Respiratory failure:  Likely secondary to neuromuscular disorder,
   most likely diagnosis ALS.  Neuromuscular team following.  Compounding
   things the patient has had a recent pseudomonas/enterobacter bronchitis
   treated w/ cefepime and vancomycin for 10 days.
   - Discontinued antibiotics
   - continue albuterol/ipratropium MDI
   - Continue on PSV and wean PEEP/PSV as tolerated, rest on MMV overnight
   - Plan for trach and PEG this week with IP in the OR.
   - Check ABG and correlate to VBG, then discontinue A line
   - Hypercarbia, however compensated acid base status
   # Weakness/Dementia: Per d/c summary, Mr. [**Known lastname 4782**] was recently
   diagnosed 3-4 months ago with Parkinson's Disease. Neurology evaluation
   here showed dementia and right foot drop but no clear Parkinsons.
   MRI/MRA wet read showed now acute process. ECHO & carotid report as
   above do not explain weakness/dementia or altered mental status.
   Neuromuscular consult concerned about ALS.
   -  Spine MRI negative for cord compression or cauda equine as cause for
   weakness
   - holding Dipyridamole-Aspirin given possible procedure
   # Pancytopenia:  Unclear etiology, could be secondary to bone marrow
   suppression from chronic illness.
   - Continue to trend
   # Weight loss: by report, had lost 30 pounds X 3-4 months w/ unclear
   cause.  [**Month (only) 51**] be secondary to neuromuscular disorder
   - appropriate outpatient cancer screening completed
   - Continue Tube feeds
   # Dysphagia: did aspirate on video swallow.  Most likely secondary to
   neuromuscular disorder
   - Plan for PEG tube
   # HTN: BP have been lower post- intubation.  Will restart amlodipine
   today, may have to restart lisinopril and metoprolol given the
   patient
s blood pressures have been elevated.
   # BPH: hold terazosin as above.
   # FEN: IVF prn, replete electrolytes, will start TF
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, R art line, R PICC-currently clotted will
   attempt TPA to unclot for labs, etc
   # Code: Full Code
   # Communication: HCP girlfriend x 25 [**Name2 (NI) 5006**] [**First Name8 (NamePattern2) 4786**] [**Last Name (NamePattern1) 4788**] [**Telephone/Fax (1) 4789**]
   # Disposition: ICU for now
 .H/O ANEMIA, CHRONIC
 SYNCOPE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2141-2-13**] 03:22 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-6**] 08:15 PM
   Arterial Line - [**2141-2-6**] 09:30 PM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU for now

2141-02-14 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Plan to go to OR today for trach/peg
   - Case management to start screening the patient for placement on Thurs
   or Fri
   - A line discontinued
   - Neuromuscular team signed off, Neuro consult team to follow.
   - Increased secretions, sent for culture
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-2-13**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2141-2-14**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-14**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.6
   HR: 69 (63 - 82) bpm
   BP: 147/59(82) {120/52(70) - 159/99(107)} mmHg
   RR: 12 (11 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,202 mL
                                                                     40 mL
   PO:
             TF:
                                                                    922 mL
   IVF:
                                                                     60 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    400 mL
   Urine:
                                                                  1,400 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -198 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 396 (307 - 464) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: ///36/
   Ve: 4.9 L/min
   Physical Examination
   General: Intubated, able to write to communicate, not sedated
   HEENT: Sclera anicteric, MMM, oropharynx clear, ETT in place, Pupils
   reactive
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: S1 + S2 regular without murmur
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: increased tone of arms and legs, lip tremors noted
   Labs / Radiology
   173 K/uL
   9.5 g/dL
   91 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.7 mEq/L
   18 mg/dL
   102 mEq/L
   141 mEq/L
   27.4 %
   3.6 K/uL
        [image002.jpg]
                             [**2141-2-9**]  05:40 PM
                             [**2141-2-10**]  04:07 AM
                             [**2141-2-10**]  05:07 AM
                             [**2141-2-10**]  06:20 PM
                             [**2141-2-11**]  04:07 AM
                             [**2141-2-12**]  03:05 AM
                             [**2141-2-12**]  11:11 AM
                             [**2141-2-13**]  02:59 AM
                             [**2141-2-13**]  03:23 AM
                             [**2141-2-14**]  04:11 AM
   WBC
   3.4
   2.9
   4.3
   3.3
   3.6
   Hct
   25.6
   25.7
   25.6
   27.5
   27.4
   Plt
   167
   151
   150
   158
   173
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   TCO2
   34
   34
   35
   37
   39
   Glucose
   85
   96
   92
   107
   91
   Other labs: PT / PTT / INR:13.5/37.3/1.2, ALT / AST:18/23, Alk Phos / T
   Bili:46/0.2, Differential-Neuts:63.1 %, Lymph:27.5 %, Mono:7.3 %,
   Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:196 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: None
   Microbiology: MRSA Screen Pending
   Sputum Cx Pending
   Assessment and Plan
   This is a 77 M w/ neuromuscular disorder with 2 recent episodes of
   intubation for requiring reintubation after extubation for a similar
   episode.
   # Respiratory failure:  Likely secondary to neuromuscular disorder,
   most likely diagnosis ALS.  Neurology following.  Compounding things
   the patient has had a recent pseudomonas/enterobacter bronchitis
   treated w/ cefepime and vancomycin for 10 days.
   - Completed antibiotic course
   - continue albuterol/ipratropium MDI
   - Continue on PSV and wean PEEP/PSV as tolerated, rest on MMV overnight
   - Plan for trach and PEG today with IP
   - Hypercarbia, however compensated acid base status
   # ALS: Likely responsible for weakness/dementiam dysphagia & weight
   loss.
   -  Spine MRI negative for cord compression or cauda equine as cause for
   weakness
   -  holding Dipyridamole-Aspirin given possible procedure
   - PEG/Trach pending
   # Pancytopenia:  Unclear etiology, could be secondary to bone marrow
   suppression from chronic illness.
   - Continue to trend
   # HTN: Once again hypertensive after settling on the ventilator
   -          Amlodipine
   -          Lisinopril
   -          Metoprolol
   # BPH: hold terazosin with foley in place
   # FEN: IVF prn, replete electrolytes, NPO for procedure
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, R art line, R PICC-currently clotted will
   attempt TPA to unclot for labs, etc
   # Code: Full Code
   # Communication: HCP girlfriend x 25 [**Name2 (NI) 5006**] [**First Name8 (NamePattern2) 4786**] [**Last Name (NamePattern1) 4788**] [**Telephone/Fax (1) 4789**]
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-6**] 08:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-02-14 11:20:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 yo man with newly diagnosed ALS, admitted for respiratory failure,
   getting T+G today.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2141-2-13**] 12:02 PM
 SPUTUM CULTURE - At [**2141-2-13**] 08:03 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-2-14**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2141-2-14**] 08:15 AM
   Other medications:
   fentanyl
   norvasc
   protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-14**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 70 (61 - 82) bpm
   BP: 138/60(79) {120/52(70) - 159/99(107)} mmHg
   RR: 19 (11 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,202 mL
                                                                     85 mL
   PO:
             TF:
                                                                    922 mL
   IVF:
                                                                     60 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    570 mL
   Urine:
                                                                  1,400 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -198 mL
                                                                   -485 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 396 (307 - 464) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: ///36/
   Ve: 4.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Voice ,
   Normal tone.  [**5-30**] UE and LE b/l, poor VC on PS 0
   Labs / Radiology
   9.5 g/dL
   173 K/uL
   91 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.7 mEq/L
   18 mg/dL
   102 mEq/L
   141 mEq/L
   27.4 %
   3.6 K/uL
        [image002.jpg]
                             [**2141-2-9**]  05:40 PM
                             [**2141-2-10**]  04:07 AM
                             [**2141-2-10**]  05:07 AM
                             [**2141-2-10**]  06:20 PM
                             [**2141-2-11**]  04:07 AM
                             [**2141-2-12**]  03:05 AM
                             [**2141-2-12**]  11:11 AM
                             [**2141-2-13**]  02:59 AM
                             [**2141-2-13**]  03:23 AM
                             [**2141-2-14**]  04:11 AM
   WBC
   3.4
   2.9
   4.3
   3.3
   3.6
   Hct
   25.6
   25.7
   25.6
   27.5
   27.4
   Plt
   167
   151
   150
   158
   173
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   TCO2
   34
   34
   35
   37
   39
   Glucose
   85
   96
   92
   107
   91
   Other labs: PT / PTT / INR:13.5/37.3/1.2, ALT / AST:18/23, Alk Phos / T
   Bili:46/0.2, Differential-Neuts:63.1 %, Lymph:27.5 %, Mono:7.3 %,
   Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:196 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Due to ALS - to get T+G
   today.  Attempt to wean after that.
   ALS:  Recent dysphagia, weakness and weight loss
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-6**] 08:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: screen for rehab
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2141-02-15 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2141-2-14**] 10:30 AM
   trach and peg done in OR
 OR SENT - At [**2141-2-14**] 11:00 AM
   [**2141-2-14**]:
   -Trach/PEG-Peg can be used 2 PM [**2-15**]
   -Neuro:F/U 1 mo.  EMG c/w ALS, signing off in chart
   -CM-look into beds-likely thursday/friday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-2-14**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2141-2-15**] 12:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-15**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 67 (47 - 82) bpm
   BP: 157/60(85) {130/51(71) - 168/64(90)} mmHg
   RR: 17 (10 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    849 mL
                                                                    527 mL
   PO:
             TF:
   IVF:
                                                                    814 mL
                                                                    527 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    360 mL
   Urine:
                                                                  1,140 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -291 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 304 (304 - 678) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 35%
   RSBI Deferred: Sao2 < 90%
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 95%
   ABG: ///35/
   Ve: 6.9 L/min
   Physical Examination
   General: tracheostomy in place, able to write to communicate, not
   sedated
   HEENT: Sclera anicteric, MMM, oropharynx clear, ETT in place, Pupils
   reactive
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: S1 + S2 regular without murmur
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, PEG in place
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: increased tone of arms and legs, lip tremors noted
   Labs / Radiology
   181 K/uL
   9.5 g/dL
   95 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.8 mEq/L
   15 mg/dL
   100 mEq/L
   139 mEq/L
   27.4 %
   3.8 K/uL
        [image002.jpg]
   Sputum Culture [**2-13**]: GNR
                             [**2141-2-10**]  04:07 AM
                             [**2141-2-10**]  05:07 AM
                             [**2141-2-10**]  06:20 PM
                             [**2141-2-11**]  04:07 AM
                             [**2141-2-12**]  03:05 AM
                             [**2141-2-12**]  11:11 AM
                             [**2141-2-13**]  02:59 AM
                             [**2141-2-13**]  03:23 AM
                             [**2141-2-14**]  04:11 AM
                             [**2141-2-15**]  03:32 AM
   WBC
   3.4
   2.9
   4.3
   3.3
   3.6
   3.8
   Hct
   25.6
   25.7
   25.6
   27.5
   27.4
   27.4
   Plt
   167
   151
   150
   158
   173
   181
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   0.8
   TCO2
   34
   35
   37
   39
   Glucose
   85
   96
   92
   107
   91
   95
   Other labs: PT / PTT / INR:13.5/37.3/1.2, ALT / AST:18/23, Alk Phos / T
   Bili:46/0.2, Differential-Neuts:63.1 %, Lymph:27.5 %, Mono:7.3 %,
   Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:196 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   This is a 77 M w/ neuromuscular disorder with 2 recent episodes of
   intubation for requiring reintubation after extubation for a similar
   episode.
   # Respiratory failure:  Likely secondary to neuromuscular disorder,
   most likely diagnosis ALS.  Neurology following.  Compounding things
   the patient has had a recent pseudomonas/enterobacter bronchitis
   treated w/ cefepime and vancomycin for 10 days, and currently has GNR
   in sputum from [**2-13**] and increased secretions
   - Completed antibiotic course, may need to restart for another course
   if the patient develops fever, leukocytosis, tachycardia, or other
   signs of infection compared to colonization
   - continue albuterol/ipratropium MDI
   - Attempt to wean to trach mask today, however difficult given the
   amount of secretions
   # ALS: Likely responsible for weakness/dementia, dysphagia & weight
   loss.
   -  Spine MRI negative for cord compression or cauda equine as cause for
   weakness
   -  holding Dipyridamole-Aspirin, restart according to surgery
   - PT consult today
   - Speech consult for other mechanisms of speech if unable to wean to
   valve
   - F/u in [**Hospital 5177**] clinic
   # Pancytopenia:  Unclear etiology, could be secondary to bone marrow
   suppression from chronic illness.
   - Continue to trend
   # HTN: Once again hypertensive after settling on the ventilator
   -          Amlodipine
   -          Restart Lisinopril & Metoprolol if needed
   # BPH: hold terazosin with foley in place, will have to restart
   terazosin prior to pulling foley
   # FEN: IVF prn, replete electrolytes PEG placed yesterday, will start
   tube feeds at 2pm today
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, R art line, R PICC
   # Code: Full Code
   # Communication: HCP girlfriend x 25 [**Name2 (NI) 5006**] [**First Name8 (NamePattern2) 4786**] [**Last Name (NamePattern1) 4788**] [**Telephone/Fax (1) 4789**]
   # Disposition: ICU for now, Screening for Rehab later this week
 HYPERTENSION, BENIGN
 .H/O ANEMIA, CHRONIC
 SYNCOPE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:  PEG placed yesterday, will start tube feeds at 2pm
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-6**] 08:15 PM
   18 Gauge - [**2141-2-14**] 02:05 PM
   Prophylaxis:
   DVT: Heparin SC TID
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU until rehab placement

2141-02-15 11:42:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 yo with new diagnosis of ?ALS, and respiratory failure, s/p T+G
   yesterday.
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2141-2-14**] 10:30 AM
   trach and peg done in OR
 OR SENT - At [**2141-2-14**] 11:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-2-15**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2141-2-15**] 09:00 AM
   Other medications:
   chlorhex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-15**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 97 (47 - 97) bpm
   BP: 149/74(92) {130/51(71) - 168/74(92)} mmHg
   RR: 24 (10 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    849 mL
                                                                    866 mL
   PO:
             TF:
   IVF:
                                                                    814 mL
                                                                    866 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                  1,140 mL
   Urine:
                                                                  1,140 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -291 mL
                                                                   -274 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 304 (304 - 678) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 32
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Sao2 < 90%
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 93%
   ABG: ///35/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   181 K/uL
   95 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.8 mEq/L
   15 mg/dL
   100 mEq/L
   139 mEq/L
   27.4 %
   3.8 K/uL
        [image002.jpg]
                             [**2141-2-10**]  04:07 AM
                             [**2141-2-10**]  05:07 AM
                             [**2141-2-10**]  06:20 PM
                             [**2141-2-11**]  04:07 AM
                             [**2141-2-12**]  03:05 AM
                             [**2141-2-12**]  11:11 AM
                             [**2141-2-13**]  02:59 AM
                             [**2141-2-13**]  03:23 AM
                             [**2141-2-14**]  04:11 AM
                             [**2141-2-15**]  03:32 AM
   WBC
   3.4
   2.9
   4.3
   3.3
   3.6
   3.8
   Hct
   25.6
   25.7
   25.6
   27.5
   27.4
   27.4
   Plt
   167
   151
   150
   158
   173
   181
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   0.8
   TCO2
   34
   35
   37
   39
   Glucose
   85
   96
   92
   107
   91
   95
   Other labs: PT / PTT / INR:13.5/37.3/1.2, ALT / AST:18/23, Alk Phos / T
   Bili:46/0.2, Differential-Neuts:63.1 %, Lymph:27.5 %, Mono:7.3 %,
   Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:196 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Microbiology: sputum from [**2-13**] with GNRs
   Assessment and Plan
   Respiratory failure:  Neuromuscular disease likely ALS.  Unclear if he
   will be able to come off vent.  Continue suctioning and weaning of PS.
   Increased sputum with PSA, but given lack of new infiltrates, WBC, or
   fevers will hold off on treating for VAP.
   Can start TFs today.
   screening for rehab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-6**] 08:15 PM
   18 Gauge - [**2141-2-14**] 02:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2141-02-16 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2141-2-15**] 05:15 PM
 SPUTUM CULTURE - At [**2141-2-15**] 05:30 PM
 PAN CULTURE - At [**2141-2-16**] 12:07 AM
   [**2141-2-15**]:
   - Repeated episodes of asymptomatic desaturations: Bronch/suction
   revealed mutliple mucous plugs, patient improved
   - Tolerating tube feeds
   - Febrile to 100.9, PanCx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-2-15**] 09:00 AM
   Fentanyl - [**2141-2-15**] 05:10 PM
   Midazolam (Versed) - [**2141-2-15**] 05:25 PM
   Heparin Sodium (Prophylaxis) - [**2141-2-16**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-16**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.9
C (100.2
   HR: 80 (77 - 108) bpm
   BP: 150/67(86) {127/47(72) - 162/105(111)} mmHg
   RR: 12 (11 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,969 mL
                                                                    337 mL
   PO:
             TF:
                                                                     93 mL
                                                                    203 mL
   IVF:
                                                                  1,817 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    245 mL
   Urine:
                                                                  1,795 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    174 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 276 (276 - 276) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: ///36/
   Ve: 5.2 L/min
   Physical Examination
   General: tracheostomy in place, able to write to communicate, not
   sedated
   HEENT: Sclera anicteric, MMM, oropharynx clear, ETT in place, Pupils
   reactive
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: S1 + S2 regular without murmur
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, PEG in place
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: increased tone of arms and legs, lip tremors noted
   Labs / Radiology
   196 K/uL
   9.5 g/dL
   110 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.8 mEq/L
   12 mg/dL
   97 mEq/L
   135 mEq/L
   26.8 %
   7.1 K/uL
        [image002.jpg]
                             [**2141-2-10**]  05:07 AM
                             [**2141-2-10**]  06:20 PM
                             [**2141-2-11**]  04:07 AM
                             [**2141-2-12**]  03:05 AM
                             [**2141-2-12**]  11:11 AM
                             [**2141-2-13**]  02:59 AM
                             [**2141-2-13**]  03:23 AM
                             [**2141-2-14**]  04:11 AM
                             [**2141-2-15**]  03:32 AM
                             [**2141-2-16**]  03:49 AM
   WBC
   2.9
   4.3
   3.3
   3.6
   3.8
   7.1
   Hct
   25.7
   25.6
   27.5
   27.4
   27.4
   26.8
   Plt
   151
   150
   158
   173
   181
   196
   Cr
   0.9
   0.8
   0.8
   0.8
   0.8
   0.8
   TCO2
   34
   35
   37
   39
   Glucose
   96
   92
   107
   91
   95
   110
   Other labs: PT / PTT / INR:14.2/35.3/1.2, ALT / AST:18/23, Alk Phos / T
   Bili:46/0.2, Differential-Neuts:63.1 %, Lymph:27.5 %, Mono:7.3 %,
   Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:196 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 77 M w/ neuromuscular disorder with 2 recent episodes of
   intubation for requiring reintubation after extubation for a similar
   episode.
   # Respiratory failure:  Likely secondary to neuromuscular disorder,
   most likely diagnosis ALS.  Neurology following.  Compounding things
   the patient has had a recent pseudomonas/enterobacter bronchitis
   treated w/ cefepime and vancomycin for 10 days, and currently has
   pseudomonas in the sputum from [**2-13**] and GNR
s in sputum from [**2-15**] and
   BAL from [**2-15**]
   - Completed antibiotic course on admission, will restart ceftazidme
   today , may need to restart for another course if the patient develops
   fever, leukocytosis, tachycardia, or other signs of infection compared
   to colonization
   - continue albuterol/ipratropium MDI
   - Attempt to wean to trach mask today, however difficult given the
   amount of secretions
   # ALS: Likely responsible for weakness/dementia, dysphagia & weight
   loss.
   -  Spine MRI negative for cord compression or cauda equine as cause for
   weakness
   -  holding Dipyridamole-Aspirin, restart according to surgery
   - PT consult today
   - Speech consult for other mechanisms of speech if unable to wean to
   valve
   - F/u in [**Hospital 5177**] clinic
   # Pancytopenia:  Unclear etiology, could be secondary to bone marrow
   suppression from chronic illness.
   - Continue to trend
   # HTN: Once again hypertensive after settling on the ventilator
   -          Amlodipine
   -          Restart Lisinopril & Metoprolol if needed
   # BPH: hold terazosin with foley in place, will have to restart
   terazosin prior to pulling foley
   # FEN: IVF prn, replete electrolytes PEG placed yesterday, will start
   tube feeds at 2pm today
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, R art line, R PICC
   # Code: Full Code
   # Communication: HCP girlfriend x 25 [**Name2 (NI) 5006**] [**First Name8 (NamePattern2) 4786**] [**Last Name (NamePattern1) 4788**] [**Telephone/Fax (1) 4789**]
   # Disposition: ICU for now, Screening for Rehab later this week
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPERTENSION, BENIGN
 .H/O ANEMIA, CHRONIC
 SYNCOPE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2141-2-15**] 06:30 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-6**] 08:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-02-16 11:27:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 yo man with ALS, respiratory failure.  Bronch yesterday for mucous
   plugging.
   24 Hour Events:
 BRONCHOSCOPY - At [**2141-2-15**] 05:15 PM
 SPUTUM CULTURE - At [**2141-2-15**] 05:30 PM
 PAN CULTURE - At [**2141-2-16**] 12:07 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2141-2-15**] 05:10 PM
   Midazolam (Versed) - [**2141-2-15**] 05:25 PM
   Heparin Sodium (Prophylaxis) - [**2141-2-16**] 08:15 AM
   Pantoprazole (Protonix) - [**2141-2-16**] 08:20 AM
   Other medications:
   heparin s/q
   protonix
   norvasc
   colace
   tamsulosin
   asa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2141-2-16**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.1
C (100.6
   HR: 85 (79 - 108) bpm
   BP: 138/54(75) {127/47(72) - 162/105(111)} mmHg
   RR: 14 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,969 mL
                                                                    619 mL
   PO:
             TF:
                                                                     93 mL
                                                                    397 mL
   IVF:
                                                                  1,817 mL
                                                                    188 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    465 mL
   Urine:
                                                                  1,795 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    174 mL
                                                                    154 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 276 (276 - 276) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///36/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   196 K/uL
   110 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.8 mEq/L
   12 mg/dL
   97 mEq/L
   135 mEq/L
   26.8 %
   7.1 K/uL
        [image002.jpg]
                             [**2141-2-10**]  05:07 AM
                             [**2141-2-10**]  06:20 PM
                             [**2141-2-11**]  04:07 AM
                             [**2141-2-12**]  03:05 AM
                             [**2141-2-12**]  11:11 AM
                             [**2141-2-13**]  02:59 AM
                             [**2141-2-13**]  03:23 AM
                             [**2141-2-14**]  04:11 AM
                             [**2141-2-15**]  03:32 AM
                             [**2141-2-16**]  03:49 AM
   WBC
   2.9
   4.3
   3.3
   3.6
   3.8
   7.1
   Hct
   25.7
   25.6
   27.5
   27.4
   27.4
   26.8
   Plt
   151
   150
   158
   173
   181
   196
   Cr
   0.9
   0.8
   0.8
   0.8
   0.8
   0.8
   TCO2
   34
   35
   37
   39
   Glucose
   96
   92
   107
   91
   95
   110
   Other labs: PT / PTT / INR:14.2/35.3/1.2, ALT / AST:18/23, Alk Phos / T
   Bili:46/0.2, Differential-Neuts:76.3 %, Lymph:11.0 %, Mono:12.0 %,
   Eos:0.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:196 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])/VAP:  Given increased WBC,
   fevers, and purulent sputum will treat with ceftaz of 10 days (sputum
   with PSA), although there is no new infiltrate on CXR.
   HTN:  Hold meds for now as has been normotensive.
   ALS:  Will need f/u with neuro
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2141-2-15**] 06:30 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-6**] 08:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Has a bed at [**Hospital1 **] so will plan for
   transfer.
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes

2141-02-17 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2141-2-16**] 10:30 AM
   - Received a bed at [**Name (NI) 997**]
   - Pt [**Name (NI) 5257**] down to 70's at 3:30pm, deep suctioned, O2 sats returned
   to normal.
   - WIll likely go to [**Hospital1 997**] in AM
   - Discontinued aggrenox as unlikley to be strokes, continued aspirin
   - IP recommended not downsizing trach for 14 days, then not removing
   PEG for 6 weeks
   - Spiked temp up to 101, did not culture because cultured earlier in
   the day, gave tylenol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2141-2-17**] 04:35 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-2-16**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2141-2-17**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-17**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.6
C (97.9
   HR: 82 (77 - 105) bpm
   BP: 123/55(71) {115/49(65) - 141/66(84)} mmHg
   RR: 15 (13 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,795 mL
                                                                    681 mL
   PO:
             TF:
                                                                  1,134 mL
                                                                    460 mL
   IVF:
                                                                    516 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    125 mL
   Urine:
                                                                    780 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,015 mL
                                                                    556 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   PS : 0 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///37/
   Ve: 4.5 L/min
   Physical Examination
   General: tracheostomy in place, able to write to communicate, not
   sedated
   HEENT: Sclera anicteric, MMM, oropharynx clear, ETT in place, Pupils
   reactive
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: S1 + S2 regular without murmur
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, PEG in place
   Ext: Warm, well perfused, 2+ pulses, no edema
   Neuro: increased tone of arms and legs, lip tremors noted
   Labs / Radiology
   166 K/uL
   8.7 g/dL
   145 mg/dL
   0.9 mg/dL
   37 mEq/L
   3.8 mEq/L
   17 mg/dL
   99 mEq/L
   138 mEq/L
   24.8 %
   7.0 K/uL
        [image002.jpg]
                             [**2141-2-10**]  06:20 PM
                             [**2141-2-11**]  04:07 AM
                             [**2141-2-12**]  03:05 AM
                             [**2141-2-12**]  11:11 AM
                             [**2141-2-13**]  02:59 AM
                             [**2141-2-13**]  03:23 AM
                             [**2141-2-14**]  04:11 AM
                             [**2141-2-15**]  03:32 AM
                             [**2141-2-16**]  03:49 AM
                             [**2141-2-17**]  03:26 AM
   WBC
   2.9
   4.3
   3.3
   3.6
   3.8
   7.1
   7.0
   Hct
   25.7
   25.6
   27.5
   27.4
   27.4
   26.8
   24.8
   Plt
   151
   150
   158
   173
   181
   196
   166
   Cr
   0.9
   0.8
   0.8
   0.8
   0.8
   0.8
   0.9
   TCO2
   35
   37
   39
   Glucose
   96
   92
   107
   91
   95
   110
   145
   Other labs: PT / PTT / INR:14.2/35.3/1.2, ALT / AST:18/23, Alk Phos / T
   Bili:46/0.2, Differential-Neuts:78.2 %, Lymph:11.9 %, Mono:9.0 %,
   Eos:0.6 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:196 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR [**2-17**]: Increased haziness throughout, possibly due to
   technical quality
   Microbiology: [**2141-2-16**] 1:42 am SPUTUM     Site: ENDOTRACHEAL
      GRAM STAIN (Final [**2141-2-16**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   GRAM STAIN (Final [**2141-2-15**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Assessment and Plan
   This is a 77 M w/ neuromuscular disorder with 2 recent episodes of
   intubation for requiring reintubation after extubation for a similar
   episode.
   # Respiratory failure:  Likely secondary to neuromuscular disorder,
   most likely diagnosis ALS.  Neurology following.  Compounding things
   the patient has had a recent pseudomonas/enterobacter bronchitis
   treated w/ cefepime and vancomycin for 10 days, and currently has
   pseudomonas in the sputum from [**2-13**] and GNR
s in sputum from [**2-15**] and
   BAL from [**2-15**]
   - Completed antibiotic course on admission, will restart ceftazidme
   today , may need to restart for another course if the patient develops
   fever, leukocytosis, tachycardia, or other signs of infection compared
   to colonization
   - continue albuterol/ipratropium MDI
   - Attempt to wean to trach mask today, however difficult given the
   amount of secretions
   # ALS: Likely responsible for weakness/dementia, dysphagia & weight
   loss.
   -  Spine MRI negative for cord compression or cauda equine as cause for
   weakness
   -  holding Dipyridamole-Aspirin, restart according to surgery
   - PT and Speech on board
   - F/u in [**Hospital 5177**] clinic
   # Pancytopenia:  Unclear etiology, could be secondary to bone marrow
   suppression from chronic illness.
   - Continue to trend
   # HTN: Once again hypertensive after settling on the ventilator
   -          Amlodipine
   -          Restart Lisinopril & Metoprolol if needed
   # BPH: hold terazosin with foley in place, will have to restart
   terazosin prior to pulling foley
   # FEN: IVF prn, replete electrolytes PEG placed yesterday, will start
   tube feeds at 2pm today
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, R art line, R PICC
   # Code: Full Code
   # Communication: HCP girlfriend x 25 [**Name2 (NI) 5006**] [**First Name8 (NamePattern2) 4786**] [**Last Name (NamePattern1) 4788**] [**Telephone/Fax (1) 4789**]
   # Disposition: will send to rehab today
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2141-2-17**] 04:06 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-6**] 08:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-02-17 10:17:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 yo man with respiratory failure, ALS.  Had desaturation yesterday
   responded to bagging and suctioning.  Also with NSVT - for <6 seconds
   24 Hour Events:
 URINE CULTURE - At [**2141-2-16**] 10:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2141-2-17**] 04:35 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-2-17**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2141-2-17**] 08:06 AM
   Other medications:
   norvasc
   tamsulosin
   asa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea, +sputum
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2141-2-17**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (99
   HR: 83 (77 - 105) bpm
   BP: 113/49(66) {113/49(65) - 141/66(84)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,795 mL
                                                                  1,114 mL
   PO:
             TF:
                                                                  1,134 mL
                                                                    654 mL
   IVF:
                                                                    516 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    350 mL
   Urine:
                                                                    780 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,015 mL
                                                                    764 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   PS : 0 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: ///37/
   Ve: 11.2 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   166 K/uL
   145 mg/dL
   0.9 mg/dL
   37 mEq/L
   3.8 mEq/L
   17 mg/dL
   99 mEq/L
   138 mEq/L
   24.8 %
   7.0 K/uL
         [image002.jpg]
                             [**2141-2-10**]  06:20 PM
                             [**2141-2-11**]  04:07 AM
                             [**2141-2-12**]  03:05 AM
                             [**2141-2-12**]  11:11 AM
                             [**2141-2-13**]  02:59 AM
                             [**2141-2-13**]  03:23 AM
                             [**2141-2-14**]  04:11 AM
                             [**2141-2-15**]  03:32 AM
                             [**2141-2-16**]  03:49 AM
                             [**2141-2-17**]  03:26 AM
   WBC
   2.9
   4.3
   3.3
   3.6
   3.8
   7.1
   7.0
   Hct
   25.7
   25.6
   27.5
   27.4
   27.4
   26.8
   24.8
   Plt
   151
   150
   158
   173
   181
   196
   166
   Cr
   0.9
   0.8
   0.8
   0.8
   0.8
   0.8
   0.9
   TCO2
   35
   37
   39
   Glucose
   96
   92
   107
   91
   95
   110
   145
   Other labs: PT / PTT / INR:14.2/35.3/1.2, ALT / AST:18/23, Alk Phos / T
   Bili:46/0.2, Differential-Neuts:78.2 %, Lymph:11.9 %, Mono:9.0 %,
   Eos:0.6 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:196 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Respiratory failure:  ALS, also with evidence of VAP.  Continue ceftaz
   for pseudomonas in sputum.
   Mucous plugging:  no further desaturation events.
   ALS:  Follow up with neuro
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2141-2-17**] 04:06 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-2-6**] 08:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes